US04705786
To a solution of 15.0 g of 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole in 50 ml of THF were added dropwise 17.4 g of triethylamine and subsequently 11.0 g of piperidine. The mixture was stirred at room temperature for 24 hours and then heated under reflux for 6 hours. After cooling, the precipitated material was removed by filtration and the filtrate was evaporated in vacuo. The residue was chromatographed on silica gel using chloroform-methanol (20:1, v/v) as eluent to give 10.9 g of 5-acetonyl-3-piperidinomethyl-1,2,4-oxadiazole as a colorless solid, m.p. 66°-67° C.

reactant | 5-acetonyl-3-chloromethyl-1,2,4-oxadiazole | 15.0 g | C(C(=O)C)C1=NC(=NO1)CCl | C6H7ClN2O2
reactant | triethylamine | 17.4 g | C(C)N(CC)CC | C6H15N
reactant | piperidine | 11.0 g | N1CCCCC1 | C5H11N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 5-acetonyl-3-piperidinomethyl-1,2,4-oxadiazole | 10.9 g | C(C(=O)C)C1=NC(=NO1)CN1CCCCC1 | C11H17N3O2
